US04587236
Under the conditions of Example 3, 0.8 g of 17-butyryloxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione is reacted with propionic anhydride, worked up, and purified, yielding 775 mg of 17-butyryloxy-11β-hydroxy-6α-methyl-21-propionyloxy-1,4-pregnadiene-3,20-dione, mp 126° C.

reactant | 17-butyryloxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 0.8 g | C(CCC)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C26H36O6
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 17-butyryloxy-11β-hydroxy-6α-methyl-21-propionyloxy-1,4-pregnadiene-3,20-dione | 775 mg | C(CCC)(=O)O[C@]1(C(COC(CC)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C29H40O7
